US09388161B2
Step 2. methyl (S)-5-cyclobutoxy-2-methyl-6-(2-(piperidin-4-yl)-1H-imidazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate
Trifluoroacetic acid (3 mL) was added to a solution of (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1H-imidazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.050 g, 0.09 mmol) in dichloromethane (6 mL), and the reaction mixture stirred at room temperature for 3 h. The reaction mixture was concentrated under vacuum, and the residue was purified via preparative-HPLC (Waters I): Column: Waters HSS C18, 2.1×50 mm, 1.8 um; Mobile Phase water (0.05% ammonium bicarbonate) and acetonitrile (5% to 95% acetonitrile in 10 min, flow rate: 20 mL/min); Detector: UV254&220 nm. This afforded methyl (S)-5-cyclobutoxy-2-methyl-6-(2-(piperidin-4-yl)-1H-imidazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (0.0039 g, 10%) as an off-white solid. 1H NMR (300 MHz, CD3OD) δ ppm 1.15-1.26 (m, 2H), 1.32-1.68 (m, 3H), 1.95-2.55 (m, 8H), 2.97-3.19 (m, 3H), 3.40-3.47 (m, 2H), 3.77-3.82 (m, 2H), 4.13-4.25 (m, 1H), 4.51-4.71 (m, 3H), 7.28-7.47 (m, 2H), 8.55-8.61 (m, 1H). MS (ESI, pos. ion) m/z 425 [M+H]+.

reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1H-imidazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.09 mmol, 0.050 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1NC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C29H40N4O5
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | methyl (S)-5-cyclobutoxy-2-methyl-6-(2-(piperidin-4-yl)-1H-imidazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1N=C(NC1)C1CCNCC1)C(=O)OC)C | C24H32N4O3
